US07893267B2
2-[(Isoquinoline-3-carbonyl)-amino]-benzooxazole-7-carboxylic acid methyl ester was prepared according to general procedure A using 1.052 g (5.5 mmol) of isoquinoline 3-carboxylic acid hydrate, 797 mg (4.15 mmol) of 2-amino-benzooxazole-7-carboxylic acid methyl ester, 2.09 g (5.5 mmol) of HBTU, 1.58 mL (9 mmol) of DIEA and 14 mL of DMF stirring at 90° C. for 3 h. 684 mg (1.97 mmol, 48%) of the product was obtained. LCMS: 348 (M+1)+.

reactant | isoquinoline 3-carboxylic acid hydrate | 5.5 mmol, 1.052 g | O.C1=NC(=CC2=CC=CC=C12)C(=O)O
reactant | 2-amino-benzooxazole-7-carboxylic acid methyl ester | 4.15 mmol, 797 mg | COC(=O)C1=CC=CC=2N=C(OC21)N | C9H8N2O3
reactant | HBTU | 5.5 mmol, 2.09 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 9 mmol, 1.58 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
product | 2-[(Isoquinoline-3-carbonyl)-amino]-benzooxazole-7-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2N=C(OC21)NC(=O)C=2N=CC1=CC=CC=C1C2 | C19H13N3O4
